US04636526
A cold solution of 300 ml of acetyl chloride was slowly added to a flask containing 3 liters of methanol. To this mixture was added 442 g of L-glutamic acid. The flask was stoppered and shaken for several minutes to effect solution. The flask was then allowed to stand at room temperature with intermittent shaking for 24 hours. 300 ml of pyridine was added causing a precipitate to form. Upon standing for an additional 48 hours, the precipitate was collected on sintered glass and washed with two 600 ml portions of ethanol and a 250 ml portion of ether. The precipitate was dried in vacuo at room temperature for 3 hours and then in a vacuum desiccator over Drierite® for 5 hours. Pyridine vapors were still perceptible from the precipitate which was further triturated with ether and dried again yielding 201.5 g of the desired γ-methyl L-glutamate as white, shiny plates, m.p. 168°-169° C.

reactant | acetyl chloride | 300 ml | C(C)(=O)Cl | C2H3ClO
reactant | methanol | 3 liters | CO | CH4O
reactant | L-glutamic acid | 442 g | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | γ-methyl L-glutamate | 201.5 g | CC(=O)OCC[C@@H](C(=O)O)N | C6H11NO4
